US06903118B1
a) 2-(2-(4-diphenylmethyl-piperazin-1-yl)-ethoxy]-ethanol
71.7 g (284 mmol) benzhydrylpiperazine, 45 g (361 mmol) 2-(2-chloroethoxy)-ethanol, 43.2 g (312 mmol) potassium carbonate and 9.4 g (57 mmol) potassium iodide are stirred in 400 ml absolute DMF for 8 hours at 75° C. After cooling, the solution is concentrated under vacuum. The residue is distributed between acetic acid ethyl ester and water. The aqueous phase is extracted twice with acetic acid ethyl ester and the combined organic phases are washed three times with saturated sodium chloride solution. The organic phase is dried over sodium sulfate and the solvent is removed under vacuum. The residue is chromatographically purified over silica gel with CHCl3/CH3OH (90/10): Yield 104 g.

reactant | benzhydrylpiperazine | 284 mmol, 71.7 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCNCC1 | C17H20N2
reactant | 2-(2-chloroethoxy)-ethanol | 361 mmol, 45 g | ClCCOCCO | C4H9ClO2
reactant | potassium carbonate | 312 mmol, 43.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 57 mmol, 9.4 g | [I-].[K+]
solvent | DMF | 400 ml | CN(C)C=O | C3H7NO
product | 2-(2-(4-diphenylmethyl-piperazin-1-yl)-ethoxy]-ethanol | C1(=CC=CC=C1)C(N1CCN(CC1)CCOCCO)C1=CC=CC=C1 | C21H28N2O2
